US04698331
(I) N-[3(R,S)-Tetradecanoyloxytetradecanoyloxy]succinimide
To a solution of 5.6 g of N-[3(R,S)-hydroxytetradecanoyloxy]succinimide in 150 ml pyridine cooled to 0° are added 4.9 g of tetradecanoylchloride and the reaction mixture maintained at 4° for 12 hours. Excess reagent is destroyed with water, the mixture concentrated by evaporation and the residue chromatographed over silica gel (toluene/ethylacetate=95/5) to obtained the title compound as a syrup.

reactant | N-[3(R,S)-hydroxytetradecanoyloxy]succinimide | 5.6 g | OC(CC(=O)ON1C(CCC1=O)=O)CCCCCCCCCCC | C18H31NO5
reactant | tetradecanoylchloride | 4.9 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | N-[3(R,S)-Tetradecanoyloxytetradecanoyloxy]succinimide | C(CCCCCCCCCCCCC)(=O)OC(CC(=O)ON1C(CCC1=O)=O)CCCCCCCCCCC | C32H57NO6
